US07816513B2
Synthesis of N1,5′-O-dibenzyl-2′,3′-dideoxyinosine
To a methanol solution (1 mL) of N1,5′-O-dibenzyl-2′,3′-didehydro-2′,3′-dideoxyinosine (207 mg, 0.5 mmol), 5% palladium-carbon (20 mg) was added, and the mixture was stirred at room temperature for 2 hours in an atmosphere of hydrogen (1 atm). The palladium catalyst was removed from the obtained reaction mixture by filtration, and the resultant filtrate was concentrated under reduced pressure. After purification by chromatography (using 15 g of silica gel and ethyl acetate as an eluting solution), 187 mg of the intended product was obtained in a yield of 90% as a white solid.

reactant | N1,5′-O-dibenzyl-2′,3′-didehydro-2′,3′-dideoxyinosine | 0.5 mmol, 207 mg | C(C1=CC=CC=C1)N1C(C=2N=CN([C@H]3C=C[C@@H](COCC4=CC=CC=C4)O3)C2N=C1)=O | C24H22N4O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 20 mg | [C].[Pd]
solvent | methanol | 1 mL | CO | CH4O
product | N1,5′-O-dibenzyl-2′,3′-dideoxyinosine | yield of 90% | C(C1=CC=CC=C1)N1C(C=2N=CN([C@H]3CC[C@@H](COCC4=CC=CC=C4)O3)C2N=C1)=O | C24H24N4O3
